US05434186
A mixture of 1.22 g (10 mmol) of 3-hydroxybenzaldehyde, 2.3 g (11 mmol) of 5-bromopentyl acetate, 3.82 g (27.7 mmol) of anhydrous, granular potassium carbonate, and 25 mL of dimethyl sulfoxide was stirred at room temperature for 20 hr. The resulting brown slurry was diluted with ether and washed with water and saturated brine. Completion of the usual work-up gave 2.59 g (100%) of 3-[[5-(acetyloxy)pentyl]oxy]benzaldehyde as a yellow oil which was used without further purification.

reactant | 3-hydroxybenzaldehyde | 10 mmol, 1.22 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | 5-bromopentyl acetate | 11 mmol, 2.3 g | C(C)(=O)OCCCCCBr | C7H13BrO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 25 mL | CS(=O)C | C2H6OS
solvent | ether | CCOCC | C4H10O
product | 3-[[5-(acetyloxy)pentyl]oxy]benzaldehyde | 2.59 g, 100% | C(C)(=O)OCCCCCOC=1C=C(C=O)C=CC1 | C14H18O4
